US04179563
To a solution of 12 g of 3-phenoxy-5-piperazinylpyridine N-oxide and 0.5 g of dichloromethane in 100 ml of ethanol is added 1 g of 20% Palladium on charcoal. The suspension is shaken under a pressure of 50 pounds per square inch of hydrogen atmosphere until no further drop in pressure occurs. The solution is filtered and concentrated in vacuo to give 3-phenoxy-5-piperazinylpyridine monohydrochloride; mp 191°-192.5° C. dec.

reactant | 3-phenoxy-5-piperazinylpyridine N-oxide | 12 g | O(C1=CC=CC=C1)C=1C=[N+](C=C(C1)N1CCNCC1)[O-] | C15H17N3O2
reactant | dichloromethane | 0.5 g | ClCCl | CH2Cl2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Palladium on charcoal | 1 g | [Pd] | Pd
product | 3-phenoxy-5-piperazinylpyridine monohydrochloride | Cl.O(C1=CC=CC=C1)C=1C=NC=C(C1)N1CCNCC1 | InChI=1S/C15H17N3O.ClH/c1-2-4-14(5-3-1)19-15-10-13(11-17-12-15)18-8-6-16-7-9-18;/h1-5,10-12,16H,6-9H2;1H
